US04833169
5.13 g (20 mmol) of methanesulphonic acid (6-methoxyindan-1-ylmethyl) ester are dissolved in 20 ml of toluene and added to a solution of 4.9 g (22 mmol) of guvacoline hydrobromide in 15 ml of dimethylformamide and 5.65 g (44 mmol) of N,N-diisopropyl-N-ethylamine. The reaction mixture is stirred at 50° under nitrogen for 24 hours. The solvents are then substantially removed under reduced pressure. The residue is dissolved in 2N hydrochloric acid, the acidic solution is extracted by shaking with diethyl ether and the ethereal phases are separated off. The acidic aqueous solution is rendered basic with saturated sodium bicarbonate solution and extracted with diethyl ether. The ethereal solutions are subsequently washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated to dryness by evaporation in vacuo. The resulting residue is purified on silica gel with dichloromethane/methanol (19:1) and the resulting eluates are concentrated to dryness by evaporation. The resulting 1-[(6-methoxyindan-1-yl)methyl]-1,2,5,6-tetrahydro-pydridine-3-carboxylic acid methyl ester is dissolved in diethyl ether and oxalic acid is added thereto. The oxalate which precipitates is recrystallised from isopropanol/water and from diethyl ether. 1-[(6-methoxyindan-1-yl)methyl]-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester oxalate of m.p. 184°-186° is obtained.

reactant | methanesulphonic acid (6-methoxyindan-1-ylmethyl) ester | 20 mmol, 5.13 g | COC1=CC=C2CCC(C2=C1)COS(=O)(=O)C | C12H16O4S
reactant | guvacoline hydrobromide | 22 mmol, 4.9 g | COC(=O)C1=CCCNC1.Br
reactant | N,N-diisopropyl-N-ethylamine | 44 mmol, 5.65 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(6-methoxyindan-1-yl)methyl]-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester oxalate | C(C(=O)O)(=O)O.COC(=O)C=1CN(CCC1)CC1CCC2=CC=C(C=C12)OC | InChI=1S/C18H23NO3.C2H2O4/c1-21-16-8-7-13-5-6-14(17(13)10-16)11-19-9-3-4-15(12-19)18(20)22-2;3-1(4)2(5)6/h4,7-8,10,14H,3,5-6,9,11-12H2,1-2H3;(H,3,4)(H,5,6)
